US09376422B2
Compound 414: N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-{[(2R,6R)-2,6-dimethylpiperidin-4-yl](ethyl)amino}-5-fluoro-2-methylbenzamide
To a stirred solution of 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-5-fluoro-2-methylbenzamide (378 mg, 0.709 mmol) in MeOH (7 mL) was added Pd/C (150 mg). The reaction mixture was stirred at 23° C. for 1 hour under hydrogen atmosphere. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (1. NAM-300H silica gel produced by Nagara Science Co., Ltd., ethylacetate/MeOH=4/1 to ethylacetate/MeOH/triethylamine=1/1/0.01, 2. NH—SiO2, heptane/ethylacetate=30/1 to 8/1) to give title compound as a white solid (235 mg, 75% yield). 1HNMR (400 MHz, CDCl3) δppm; 7.08 (t, J=6.2 Hz, 1H), 6.82 (dd, J=10.7, 2.5 Hz, 1H), 6.75 (dd, J=8.2, 2.7 Hz, 1H), 5.93 (s, 1H), 4.51 (d, J=6.2 Hz, 2H), 3.40-3.48 (m, 1H), 2.95-3.09 (m, 3H), 2.83-2.92 (m, 1H), 2.39 (s, 3H), 2.22 (s×2, 6H), 1.63-1.78 (m, 4H), 1.13 (d, J=7.0 Hz, 3H), 1.02 (d, J=6.2 Hz, 3H), 0.84 (t, J=7.0 Hz, 3H); MS (ES) [M+H] 443.1, [M+Na] 465.2; HPLC; 99.3% purity.

reactant | 3-{[(2R,6R)-1-benzyl-2,6-dimethylpiperidin-4-yl](ethyl)amino}-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-5-fluoro-2-methylbenzamide | 0.709 mmol, 378 mg | C(C1=CC=CC=C1)N1[C@@H](CC(C[C@H]1C)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=C(C1)F)C)CC)C | C32H41FN4O2
solvent | MeOH | 7 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | N-[(4,6-Dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-3-{[(2R,6R)-2,6-dimethylpiperidin-4-yl](ethyl)amino}-5-fluoro-2-methylbenzamide | 235 mg, 75% yield | CC1=C(C(NC(=C1)C)=O)CNC(C1=C(C(=CC(=C1)F)N(CC)C1C[C@H](N[C@@H](C1)C)C)C)=O | C25H35FN4O2
